US08754073B2
64.3 N-cyclopropyl-N-methyl-3-{1-[5-oxo-4-(tetrahydropyran-4-ylamino)-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-2-yl]-piperidin-4-yl}-benzamide (Example 249)
59.8 mg 3-{1-[5-oxo-4-(tetrahydropyran-4-ylamino)-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-2-yl]-piperidin-4-yl}-benzoic acid are placed in 2.3 ml dimethylformamide, then 91 l diisopropylethylamine and 60 mg O-(7-azabenzotriazol-1-yl-)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU) are added. After 15 min a mixture of 15.5 mg cyclopropylmethylamine hydrochloride in 300 l dimethylformamide is added. The reaction mixture is stirred at ambient temperature until there is no further reaction, and the product is purified directly by preparative HPLC (method B). 50 mg Example 249 are obtained as a solid. Analytical HPLC-MS (method D): RT=1.05 min.

reactant | 3-{1-[5-oxo-4-(tetrahydropyran-4-ylamino)-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-2-yl]-piperidin-4-yl}-benzoic acid | 59.8 mg | O=S1CCC=2N=C(N=C(C21)NC2CCOCC2)N2CCC(CC2)C=2C=C(C(=O)O)C=CC2 | C23H28N4O4S
reactant | diisopropylethylamine | 91 l | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 60 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | cyclopropylmethylamine hydrochloride | 15.5 mg | Cl.C1(CC1)CN
solvent | dimethylformamide | 2.3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 300 l | CN(C=O)C | C3H7NO
product | N-cyclopropyl-N-methyl-3-{1-[5-oxo-4-(tetrahydropyran-4-ylamino)-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-2-yl]-piperidin-4-yl}-benzamide | C1(CC1)N(C(C1=CC(=CC=C1)C1CCN(CC1)C=1N=C(C2=C(N1)CCS2=O)NC2CCOCC2)=O)C | C27H35N5O3S
